US08486934B2
3-(3,5-dichloro-2-aminophenyl)-5,6-dihydro-1,4,2-dioxazine
At 20° C., 30 ml of thionyl chloride are initially charged and 3 g of 3,5-dichloro-2-amino-N-(2-hydroxyethoxy)benzamide are added in 3 portions with stirring. The mixture is stirred at 70° C. for 12 h. The reaction mixture is then cooled and carefully poured onto ice-water. The mixture is extracted twice with in each case 150 ml of dichloromethane and the extracts are dried with sodium sulphate and evaporated to dryness using a rotary evaporator.

reactant | 3,5-dichloro-2-amino-N-(2-hydroxyethoxy)benzamide | 3 g | ClC=1C(=C(C(=O)NOCCO)C=C(C1)Cl)N | C9H10Cl2N2O3
solvent | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(3,5-dichloro-2-aminophenyl)-5,6-dihydro-1,4,2-dioxazine | ClC=1C(=C(C=C(C1)Cl)C1=NOCCO1)N | C9H8Cl2N2O2
